US07223788B2
N-Methyl-N-(1-{4-[3-(4-piperidin-1-ylphenyl)ureido]phenyl}pyrrolidin-3-yl)acetamide
N-[1-(4-Aminophenyl)pyrrolidin-3-yl]-N-methylacetamide was reacted with carbonyldiimidazole and then with 4-piperidin-1-ylphenylamine by method A. This resulted in the product with the molecular weight of 435.57 (C25H33N5O2); MS (ESI): 436 (M+H+).

reactant | N-[1-(4-Aminophenyl)pyrrolidin-3-yl]-N-methylacetamide | NC1=CC=C(C=C1)N1CC(CC1)N(C(C)=O)C | C13H19N3O
reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-piperidin-1-ylphenylamine | N1(CCCCC1)C1=CC=C(C=C1)N | C11H16N2
product | N-Methyl-N-(1-{4-[3-(4-piperidin-1-ylphenyl)ureido]phenyl}pyrrolidin-3-yl)acetamide | CN(C(C)=O)C1CN(CC1)C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1CCCCC1 | C25H33N5O2
